US04751225
To a mixture of 2-[4-(3,5-difluorophenoxy)phenoxy]ethanol (1.00 g, 3.76 mmol) and n-hexane (50 ml), phosphorus tribromide (0.71 g, 2.63 mmol) was gradually added with stirring under ice-cooling. After completion of the addition, the temperature was elevated to room temperature and stirring was continued at the same temperature for 30 minutes, followed by stirring under reflux for 1 hour. After allowed to cool, the upper n-hexane layer was collected by decantation, and the n-hexane layer was washed with water two times, an aqueous sodium carbonate solution three times and a saturated aqueous sodium chloride solution once in order and dried over anhydrous magnesium sulfate. Removal of the solvent gave 2-[4-(3,5-difluorophenoxy)phenoxy]ethyl bromide (915 mg).

reactant | 2-[4-(3,5-difluorophenoxy)phenoxy]ethanol | 3.76 mmol, 1.00 g | FC=1C=C(OC2=CC=C(OCCO)C=C2)C=C(C1)F | C14H12F2O3
reactant | phosphorus tribromide | 2.63 mmol, 0.71 g | P(Br)(Br)Br | Br3P
solvent | n-hexane | 50 ml | CCCCCC | C6H14
product | 2-[4-(3,5-difluorophenoxy)phenoxy]ethyl bromide | 915 mg | FC=1C=C(OC2=CC=C(OCCBr)C=C2)C=C(C1)F | C14H11BrF2O2
